US05998436
Synthesis of 5-amino-1-(6-amino-3,5-difluoropyridin-2-yl)-8-chloro-6,7-difluoro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid
To 10 ml of formic acid was added 960 mg of ethyl 1-(6-t-butylamino-3,5-difluoropyridin-2-yl)-8-chloro-6,7-difluoro-5-nitro-4-oxo-1,4-dihydroquinoline-3-carboxylate together with 1.0 g of iron powder, and the mixture was stirred at 80 to 90° C. for 5 hours and 40 minutes. The insoluble content was separated by filtration through celite, and the content separated by the celite and the celite were washed with formic acid and chloroform. The filtrate and the washings were concentrated under reduced pressure. To the residue was added the 6 ml of the mixed solution of 4N hydrochloric acid and acetic acid (1:1), and the mixture was heated under reflux for 2 hours with stirring and allowed to cool. The precipitate was collected by filtration and washed with ethanol and diisopropylether successively to obtain 625 mg of the title compound as a yellow powder.

reactant | ethyl 1-(6-t-butylamino-3,5-difluoropyridin-2-yl)-8-chloro-6,7-difluoro-5-nitro-4-oxo-1,4-dihydroquinoline-3-carboxylate | 960 mg | C(C)(C)(C)NC1=C(C=C(C(=N1)N1C=C(C(C2=C(C(=C(C(=C12)Cl)F)F)[N+](=O)[O-])=O)C(=O)OCC)F)F | C21H17ClF4N4O5
catalyst | iron | 1.0 g | [Fe] | Fe
solvent | formic acid | 10 ml | C(=O)O | CH2O2
product | 5-amino-1-(6-amino-3,5-difluoropyridin-2-yl)-8-chloro-6,7-difluoro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid | 625 mg | NC1=C2C(C(=CN(C2=C(C(=C1F)F)Cl)C1=NC(=C(C=C1F)F)N)C(=O)O)=O | C15H7ClF4N4O3
